### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Walk): make `p.Nil` the simpNF of `p = nil` and `p.length = 0`

### PR DESCRIPTION
**Pull request by SnirBroshi**
These are equivalent, and `p.Nil` works even when the endpoints of the walk aren't defeq.

[#graph theory > Deprecate &#96;p = nil&#96; in favor of &#96;p.Nil&#96;?](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/Deprecate.20.60p.20.3D.20nil.60.20in.20favor.20of.20.60p.2ENil.60.3F/with/538017334)

The main event is `Walk/Basic.lean`:
- Swapped sides of `nil_iff_eq_nil` to create `eq_nil_iff_nil`, tagged `@[simp]` and deprecated the original
- Changed the RHS of `length_eq_zero_iff` from `p = nil` to `p.Nil`, and generalized to non-closed walks
- Deprecated `nil_iff_length_eq` which is the symmetric iff
- Added `Nil.length_eq_zero` alias
- Untagged `exists_length_eq_zero_iff` with `@[simp]` and added `exists_nil_iff` to replace it

The rest is fixing everything that broke (or uses of now-deprecated lemmas), and:
- [`Walk/Maps`] Added `nil_map_iff` to replace `map_eq_nil_iff` which is the same but with `.Nil` instead of `= nil`
- [`Walk/Decomp`] Added `nil_rotate` to replace `rotate_eq_nil` which is the same but with `.Nil` instead of `= nil`

---

Also renamed `set_walk_*` in `Counting.lean` to follow the naming convention.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk/Counting.lean [hunk 1]
```diff
@@ -32,14 +32,11 @@ namespace SimpleGraph
 
 variable {V : Type u} (G : SimpleGraph V)
 
-theorem set_walk_self_length_zero_eq (u : V) : {p : G.Walk u u | p.length = 0} = {Walk.nil} := by
-  simp
+theorem set_walk_self_length_zero_eq (u : V) : {p : G.Walk u u | p.length = 0} = {.nil} := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Counting.lean]: I guess out of scope here, but the current name is wrong in several ways:
```suggestion
theorem setOf_walkLength_eq_zero (u : V) : {p : G.Walk u u | p.length = 0} = {.nil} := by
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean [hunk 2]
```diff
@@ -378,16 +381,25 @@ lemma not_nil_iff {p : G.Walk v w} :
   cases p <;> simp [*]
 
 /-- A walk with its endpoints defeq is `Nil` if and only if it is equal to `nil`. -/
-lemma nil_iff_eq_nil : ∀ {p : G.Walk v v}, p.Nil ↔ p = nil
-  | .nil | .cons _ _ => by simp
+@[simp]
+theorem eq_nil_iff {p : G.Walk v v} : p = nil ↔ p.Nil := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean]:
```suggestion
theorem eq_nil_iff_nil {p : G.Walk v v} : p = nil ↔ p.Nil := by
```
maybe?

File: Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean [hunk 3]
```diff
@@ -367,9 +363,16 @@ lemma darts_eq_nil {p : G.Walk v w} : p.darts = [] ↔ p.Nil := by
 lemma edges_eq_nil {p : G.Walk v w} : p.edges = [] ↔ p.Nil := by
   cases p <;> simp
 
-lemma nil_iff_length_eq {p : G.Walk v w} : p.Nil ↔ p.length = 0 := by
+@[simp]
+theorem length_eq_zero_iff {p : G.Walk u v} : p.length = 0 ↔ p.Nil := by
   cases p <;> simp
 
+alias ⟨_, Nil.length_eq⟩ := length_eq_zero_iff
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean]:
```suggestion
alias ⟨_, Nil.length_eq_zero⟩ := length_eq_zero_iff
```
I advise

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean]: I think the `Nil` namespace makes it clear enough, no? I like that `h.length_eq` is short

File: Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean]: Huh, you're usually advocating for the opposite trend of shortening obvious parts of a name, but sure

File: Mathlib/Combinatorics/SimpleGraph/Walk/Counting.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Counting.lean]: I also noticed and dismissed it as out of scope 😅

Changed to `Walk.setOf_length_eq_zero`, is that okay?

File: Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean]: Lemmas ending in `_eq` are usually indicative that the RHS is a free variable, since otherwise either the RHS is included in the name, or the `_eq` is dropped from the name (because the LHS is descriptive enough). Here, `Nil.length` sounds like it should be the nonsense lemma `p.Nil -> p.length.Nil`, so I suggest `Nil.length_eq_zero` instead

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Basic.lean]: Interesting, done!
(although I did find [`IsHamiltonian.length_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Hamiltonian.html#SimpleGraph.Walk.IsHamiltonian.length_eq) / [`IsHamiltonianCycle.length_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Hamiltonian.html#SimpleGraph.Walk.IsHamiltonianCycle.length_eq) / [`trapezoidal_integral_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/IntervalIntegral/TrapezoidalRule.html#trapezoidal_integral_eq) / [`IsCoprime.add_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Operations.html#IsCoprime.add_eq), but maybe they should also be fixed)

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
